* source INDUCTIVE_TRANSISTOR
Q_Q1         N00217 N00240 N00213 QbreakN 
V_V1         N00244 0  
+PULSE 10V 0V 100ms 1ms 1ms 250ms 1s
V_V2         N00233 0 3.3Vdc
R_R1         N00244 N00240  100k TC=0,0 
R_R2         N00217 N00233  10k TC=0,0 
R_R3         0 N00213  10k TC=0,0 
